US05342850
5-(4-Piperonyloylaminophenyl)thiazolidine-2,4-dione
Into 20 ml of dimethylformamide were dissolved 1.00 g of 5-(4-aminophenyl)thiazolidine-2,4-dione and 0.80 g of piperonylic acid, and, after added 1.12 g of diethylphosphoryl cyanide and then 0.50 g of triethylamine at 0° C., the mixture was stirred for 1 hour as it was. Thereafter, the reaction mixture was brought to room temperature and stirred for 2 hours. Then, it was poured into 200 ml of water and, after made acidic with hydrochloric acid, the crystals deposited were collected by filtration. These were recrystallized from ethanol to obtain 1.05 g of title compound.

reactant | 5-(4-aminophenyl)thiazolidine-2,4-dione | 1.00 g | NC1=CC=C(C=C1)C1C(NC(S1)=O)=O | C9H8N2O2S
reactant | piperonylic acid | 0.80 g | C(C1=CC=2OCOC2C=C1)(=O)O | C8H6O4
reactant | diethylphosphoryl cyanide | 1.12 g | C(C)P(=O)(CC)C#N | C5H10NOP
reactant | hydrochloric acid | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | triethylamine | 0.50 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-(4-Piperonyloylaminophenyl)thiazolidine-2,4-dione | 1.05 g | C(C1=CC=2OCOC2C=C1)(=O)NC1=CC=C(C=C1)C1C(NC(S1)=O)=O | C17H12N2O5S
